US07399863B2
b. Preparation of 5-((R)-2-{2-[4-((S)-2-hydroxy-2-phenylethylamino)phenyl]-ethylamino}-1-(tert-butyldimethylsilanyloxy)ethyl)-8-benzyloxy-1H-quinolin-2-one
Under nitrogen, (S)-2-[4-(2-aminoethyl)-phenylamino]-1-phenylethanol (1.7 g, 6.6 mmol) and 8-benzyloxy-5-[(R)-2-bromo-1-(tert-butyldimethylsilanyloxy)ethyl]-1H-quinolin-2-one (1.5 g, 3.1 mmol) were treated with dimethyl sulfoxide (4.0 mL) and heated to 120° C. for 40 minutes. The mixture was cooled slowly to room temperature and partitioned between water and ethyl acetate (after removal of some insoluble gummy residue by decantation). The organics were washed with 0.9 M sodium acetate/acetic acid, saturated sodium hydrogen carbonate and saturated sodium chloride, dried over sodium sulfate and evaporated to dryness. The title intermediate was used without further purification.

reactant | (S)-2-[4-(2-aminoethyl)-phenylamino]-1-phenylethanol | 6.6 mmol, 1.7 g | NCCC1=CC=C(C=C1)NC[C@@H](O)C1=CC=CC=C1 | C16H20N2O
reactant | 8-benzyloxy-5-[(R)-2-bromo-1-(tert-butyldimethylsilanyloxy)ethyl]-1H-quinolin-2-one | 3.1 mmol, 1.5 g | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CC(NC12)=O)[C@H](CBr)O[Si](C)(C)C(C)(C)C | C24H30BrNO3Si
solvent | dimethyl sulfoxide | 4.0 mL | CS(=O)C | C2H6OS
product | 5-((R)-2-{2-[4-((S)-2-hydroxy-2-phenylethylamino)phenyl]-ethylamino}-1-(tert-butyldimethylsilanyloxy)ethyl)-8-benzyloxy-1H-quinolin-2-one | O[C@H](CNC1=CC=C(C=C1)CCNC[C@H](O[Si](C)(C)C(C)(C)C)C1=C2C=CC(NC2=C(C=C1)OCC1=CC=CC=C1)=O)C1=CC=CC=C1 | C40H49N3O4Si
